US07405300B2
1-(4-tert-Butylphenyl)-2-chloro-1H-indole-3-carboxaldehyde is reacted with 1-Boc-piperazine as described in Step 2 of Example 29 to afford 4-[1-(4-tert-butylphenyl)-3-formyl-1H-indol-2-yl]piperazine-1-carboxylic acid tert-butyl ester (70% yield) as a light yellow solid. TLC (heptane-30% ethyl acetate) Rf 0.19; ESI/MS 462 (M+H); RT=4.42 min.; NMR10.13 (1H, s); 8.13 (1H, d, J=9 Hz); 7.68 (2H, d); 7.49 (2H, d); 7.21 (2H, m); 6.95 (1H, d, J=9 Hz); 3.20 (8H, m); 1.37 (18H, s).

reactant | 1-(4-tert-Butylphenyl)-2-chloro-1H-indole-3-carboxaldehyde | C(C)(C)(C)C1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)Cl | C19H18ClNO
reactant | 1-Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
product | 4-[1-(4-tert-butylphenyl)-3-formyl-1H-indol-2-yl]piperazine-1-carboxylic acid tert-butyl ester | 70% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)C(C)(C)C | C28H35N3O3
